US07943613B2
A solution of 5-iodo-2-methylbenzo[b]furan (12.1 g, 46.9 mmol) in dry tetrahydrofuran (50 mL) was degassed and copper(I) iodide (280 mg, 1.5 mmol), tetrakis(triphenylphosphine)palladium (1.7 g, 1.5 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (9.1 g, 60.0 mmol) were added. The reaction solution was degassed again and propargyl alcohol (3.4 g, 60.7 mmol) was added under inert atmosphere at ambient temperature. The reaction mixture was stirred (initially under cooling with ice water) for 48 h, then treated with water (20 mL) and acidified with 2 M hydrochloric acid (20 mL). The organic phase was separated and the aqueous phase was extracted with ether (4×30 mL). The combined organic phases were dried with anhydrous magnesium sulfate and concentrated in vacuo yielding brown solid. The residue was purified by column chromatography (silica gel Fluka 60, benzene) yielding 3-(2-methyl benzo[b]furan-5-yl)prop-2-yn-1-ol.

reactant | 5-iodo-2-methylbenzo[b]furan | 46.9 mmol, 12.1 g | IC1=CC2=C(OC(=C2)C)C=C1 | C9H7IO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 60.0 mmol, 9.1 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propargyl alcohol | 60.7 mmol, 3.4 g | C(C#C)O | C3H4O
reactant | hydrochloric acid | 2 M, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 1.5 mmol, 280 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 1.5 mmol, 1.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | 3-(2-methyl benzo[b]furan-5-yl)prop-2-yn-1-ol | CC1=CC2=C(O1)C=CC(=C2)C#CCO | C12H10O2
